US05455351
C. 2-(1-Pyrrolidinyl)-4-(hydroxymethyl)thiazole
Using the procedure of Example 9C but replacing ethyl 2-(4-morpholinyl)thiazole-4-carboxylate with ethyl 2-(1-pyrrolidinyl)thiazole-4-carboxylate provided, after silica gel chromatography using 2-4% methanol in chloroform, the desired compound (Rf 0.26, 4% methanol in chloroform)in 53% yield. 1H NMR (CDCl3)δ2.04 (m, 4H), 2.75 (br, 1H), 3.45 (m, 4H), 4.56 (s, 2H), 6.32 (s, 1H). Mass spectrum: (M+H)+ =185.

reactant | ethyl 2-(1-pyrrolidinyl)thiazole-4-carboxylate | N1(CCCC1)C=1SC=C(N1)C(=O)OCC | C10H14N2O2S
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(1-Pyrrolidinyl)-4-(hydroxymethyl)thiazole | 4% | N1(CCCC1)C=1SC=C(N1)CO | C8H12N2OS
